US08623859B2
5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-methyl-N-{[5-(pyrrolidin-1-ylmethyl)-1,3,4-thiadiazol-2-yl]methyl}furan-3-carboxamide
N-methyl-1-[5-(pyrrolidin-1-ylmethyl)-1,3,4-thiadiazol-2-yl]methanamine dihydrochloride (25 mg, 0.087 mmol) was dissolved in DCM (5 mL), on addition of DIPEA (0.03 mL, 0.17 mmol). 5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid (30 mg, 0.09 mmol) and HOBt (17 mg, 0.12 mmol) were added and the resulting solution was cooled to 0° C. prior to the addition of EDCI (24 mg, 0.13 mmol). The mixture was stirred at ambient temperature for 7 h, quenched with saturated aqueous NaHCO3 (3 mL) and extracted with DCM (2×10 mL). The combined organic extracts were dried over Na2SO4 and concentrated in vacuo. The residue was purified by FCC eluting with 2% MeOH in DCM to afford the title compound.

reactant | N-methyl-1-[5-(pyrrolidin-1-ylmethyl)-1,3,4-thiadiazol-2-yl]methanamine dihydrochloride | 0.087 mmol, 25 mg | Cl.Cl.CNCC=1SC(=NN1)CN1CCCC1
reactant | DIPEA | 0.17 mmol, 0.03 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid | 0.09 mmol, 30 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)O)C | C16H19NO6S
reactant | HOBt | 0.12 mmol, 17 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.13 mmol, 24 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-methyl-N-{[5-(pyrrolidin-1-ylmethyl)-1,3,4-thiadiazol-2-yl]methyl}furan-3-carboxamide | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)N(CC=1SC(=NN1)CN1CCCC1)C)C | C25H33N5O5S2
